US08168794B2
To a solution of 3-(3-nitropyridin-4-yl)cyclohex-2-enol (1.0 equiv.) was added dioxane (0.18M) and p-TSA (1.1 equiv.). The solution was heated to 100° C. for 4 h. Cooled to room temperature, worked up with sat. NaHCO3 and ethyl acetate, the organic phase was dried with Na2SO4 and concentrated. The crude was purified via silica gel column chromatography eluting with 100% DCM to give 4-(cyclohexa-1,3-dienyl)-3-nitropyridine as a yellow oil (27% yield). LCMS (m/z): 203.1 (MH+), LC Rt=3.53 min, H-NMR (CDCl3): 9.02 (s, 1H), 8.70 (d, J=5.3, 1H), 7.30 (d, J=5.3, 1H), 6.15-6.17 (m, 1H), 6.02-6.11 (m, 2H), 2.35-2.38 (m, 4H).

reactant | 3-(3-nitropyridin-4-yl)cyclohex-2-enol | 1.0 equiv. | [N+](=O)([O-])C=1C=NC=CC1C1=CC(CCC1)O | C11H12N2O3
reactant | dioxane | 0.18M | O1CCOCC1 | C4H8O2
reactant | p-TSA | 1.1 equiv. | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(cyclohexa-1,3-dienyl)-3-nitropyridine | 27% yield | C1(=CC=CCC1)C1=C(C=NC=C1)[N+](=O)[O-] | C11H10N2O2
